US06133253
121a. 2-chloro-3-(1-BOC-2-(S)-azetidinylmethoxy)pyridine
To a solution of triphenylphosphine (1.73 g, 6.6 mmol) in THF (26 mL) was added diethyl azodicarboxylate (1.04 mL, 6.6 mmol) at 0° C., and the reaction mixture was stirred for 15 minutes. 1-BOC-2-(S)-azetidinemethanol (1.03 g, 5.5 mmol) and 2-chloro-3-pyridinol (785 mg, 6.0 mmol, Aldrich Chemical Co.) were then added. The reaction mixture was allowed to warm slowly to room temperature and stir overnight. Solvent was removed, and the residue was dissolved in ethyl acetate. The solution was washed with saturated aqueous K2CO3 and brine, dried over MgSO4 and concentrated. The residue was chromatographed on a silica gel column, eluting with ethyl acetate:hexane (1:4 to 1:1) to afford the title compound (611 mg). MS (DCI/NH3) m/z 299 (M+H)+.

reactant | triphenylphosphine | 6.6 mmol, 1.73 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 6.6 mmol, 1.04 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 1-BOC-2-(S)-azetidinemethanol | 5.5 mmol, 1.03 g | C(=O)(OC(C)(C)C)N1[C@@H](CC1)CO | C9H17NO3
reactant | 2-chloro-3-pyridinol | 6.0 mmol, 785 mg | ClC1=NC=CC=C1O | C5H4ClNO
solvent | THF | 26 mL | C1CCOC1 | C4H8O
product | 2-chloro-3-(1-BOC-2-(S)-azetidinylmethoxy)pyridine | 611 mg | ClC1=NC=CC=C1OC[C@H]1N(CC1)C(=O)OC(C)(C)C | C14H19ClN2O3
